US08877782B2
b) (3-Phenyl-isoxazol-4-yl)-methanol
As described for example 84d, 3-phenyl-isoxazole-4-carboxylic acid methyl ester (2.95 g, 15 mmol) was converted, instead of 3-(2-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester, to the title compound (1.56 g, 61%) which was obtained as a light green oil. MS: m/e=176.4 [M+H]+.

reactant | 3-phenyl-isoxazole-4-carboxylic acid methyl ester | 15 mmol, 2.95 g | COC(=O)C=1C(=NOC1)C1=CC=CC=C1 | C11H9NO3
reactant | 3-(2-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NOC1C)C1=C(C=CC=C1)F | C13H12FNO3
product | (3-Phenyl-isoxazol-4-yl)-methanol | 1.56 g, 61% | C1(=CC=CC=C1)C1=NOC=C1CO | C10H9NO2
